US09102591B2
A solution of tert-butyl (2-phenyl-2-(pyridazin-4-yl)ethyl)carbamate (120 mg, 0.40 mmol) in DCM (2 ml) and TFA(2 ml) was stirred at room temperature for 4 hours. The solvent was removed under reduced pressure and the residue was diluted with sat.aq Na2CO3 to adjust pH=9-10, then, extracted with AcOEt (3×30 ml), the combined organic layer was washed with brine, dried over Na2SO4 and concentrated to get the 2-phenyl-2-(pyridazin-4-yl)ethanamine(crude 80 mg), which was used for next step directly.

reactant | tert-butyl (2-phenyl-2-(pyridazin-4-yl)ethyl)carbamate | 0.40 mmol, 120 mg | C1(=CC=CC=C1)C(CNC(OC(C)(C)C)=O)C1=CN=NC=C1 | C17H21N3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-phenyl-2-(pyridazin-4-yl)ethanamine | C1(=CC=CC=C1)C(CN)C1=CN=NC=C1 | C12H13N3
